US05840485
Mono tert.butyloxycarbonylethylenediamine.
This compound was prepared as described previously (Krapcho et al., 1990, Synthetic Commun. 20: 2559-2564). Briefly, a solution of tert.butyl dicarbonate (5.0 g, 0.023 mol) in dioxane (50 ml) was slowly added to ethylenediamine (11.0 ml, 0.165 mol) in dioxane (60 ml). After 24 hrs of stirring the solvent was evaporated and the residue was dissolved in water (80 ml), insoluble byproduct was filtered off and the filtrate was extracted with dichloromethane (3×100 ml). After evaporation of the solvent the product was crystallized from solvent mixture of diethylether--petroleum ether or ethyl acetate--petroleum ether. Yield 2.6 g (71%). NMR (300 MHz, DMSO-d6, 25° C.) d: 1.39 (s, 9H, tBu), 2.83 (m, 2H, Ca H2), 3.16 (q, 2H, CbH2), 6.93 (t, 1H, NH), 7.77 (br, 2H, NH2). M.p. 75° C.

reactant | tert.butyl dicarbonate | 0.023 mol, 5.0 g | C(=O)(OC(C)(C)C)OC(=O)[O-]
reactant | ethylenediamine | 0.165 mol, 11.0 ml | C(CN)N | C2H8N2
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 60 ml | O1CCOCC1 | C4H8O2
product | Mono tert.butyloxycarbonylethylenediamine | C(C)(C)(C)OC(=O)NCCN | C7H16N2O2
